US08461346B2
To 1.74 g (11 mmol) 5-amino-2-methylquinolin and 1.33 ml (11 mmol) 2-methoxybenzaldehyde in 33 ml toluene are added 50 μl acetic acid and 2 g molecular sieve. The mixture is heated over 2 hours under reflux and filtrated through a path of cellites after cooling. The solvent is evaporated and the residue is two times azeothrophed with small portions of toluene. 3.6 g of [1-(2-methoxyphenyl)methylidene]-(2-methylquinolin-5-yl)amine are obtained as a yellow oil. 2.25 ml (26 mmol) 1,1,1-Trifluoroepoxypropane in 38 ml THF and 11 ml hexane are cooled to −100° C. and 15 ml of a 1.6 M n-butyl lithium solution in hexane are added over one hours while the temperature does not exceed −95° C. 10 Minutes after complete addition 3.6 g (11 mmol) raw [1-(2-methoxyphenyl)methylidene]-(2-methylquinolin-5-yl)amine in 49 ml THF are added over one hour while the temperature does not exceed −95° C. After one hour at −100° C. 12 ml diethyl ether are added and the reaction mixture is warmed to −10° C. over one hour. The reaction was quenched by addition of saturated ammonium chloride solution. The phases were separated and the aqueous layer was extracted twice with diethyl ether, the combined organic phases washed with brine, dried over sodium sulphate and then evaporated. Flash chromatography on silica gel (acetone in hexane 0 to 30%) yields 4.27 g {(2-methoxyphenyl)[2-(trifluoromethyl)oxiranyl]methyl}-2-methylquinolin-5-amine as mixture of diastereomeres.

reactant | 1,1,1-Trifluoroepoxypropane | 26 mmol, 2.25 ml | FC(C1CO1)(F)F | C3H3F3O
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | [1-(2-methoxyphenyl)methylidene]-(2-methylquinolin-5-yl)amine | 11 mmol, 3.6 g | COC1=C(C=CC=C1)C=NC1=C2C=CC(=NC2=CC=C1)C | C18H16N2O
reactant | diethyl ether | 12 ml | C(C)OCC | C4H10O
reactant | THF | 38 ml | C1CCOC1 | C4H8O
reactant | THF | 49 ml | C1CCOC1 | C4H8O
solvent | hexane | 11 ml | CCCCCC | C6H14
product | {(2-methoxyphenyl)[2-(trifluoromethyl)oxiranyl]methyl}-2-methylquinolin-5-amine | 4.27 g | COC1=C(C=CC=C1)C(C1(OC1)C(F)(F)F)C=1C(=NC=2C=CC=C(C2C1)N)C | C21H19F3N2O2
